US07851473B2
(2) 4-[4-(2-Fluorophenyl)-1,3-thiazol-2-yl]piperidine
To a solution of tert-butyl 4-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (390 mg, 1.07 mmol) in ethyl acetate (10 ml) was added a 4N solution (10 ml) of hydrogen chloride in ethyl acetate, and the mixture was stirred at room temperature for 5 hours. The solvent was distilled off under reduced pressure, and the residue was dissolved in water. The solution was neutralized with 1N aqueous sodium hydroxide solution, and the mixture was extracted with chloroform. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to give the desired product (181 mg, 64.3%) as a solid.

reactant | tert-butyl 4-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 1.07 mmol, 390 mg | FC1=C(C=CC=C1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H23FN2O2S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 4-[4-(2-Fluorophenyl)-1,3-thiazol-2-yl]piperidine | 181 mg, 64.3% | FC1=C(C=CC=C1)C=1N=C(SC1)C1CCNCC1 | C14H15FN2S
